US04160094
8-Lithio-2-methyl-4-phenyl-5,6,7,8-tetrahydroquinoline
By the method described in Example 7 using n-butyl lithium solution (9% w/v, 57 ml, 0.077 mol), and 2-methyl-4-phenyl-5,6,7,8-tetrahydroquinoline, the title compound is prepared and converted in situ to methyl 2-methyl-4-phenyl-5,6,7,8-tetrahydroquinoline-8-carboxylate and then to the corresponding 8-thioamide by the procedure described in U.S. Ser. No. 460,265.

reactant | n-butyl lithium | 0.077 mol, 57 ml | C(CCC)[Li]
reactant | 2-methyl-4-phenyl-5,6,7,8-tetrahydroquinoline | CC1=NC=2CCCCC2C(=C1)C1=CC=CC=C1 | C16H17N
reactant | methyl 2-methyl-4-phenyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | CC1=NC=2C(CCCC2C(=C1)C1=CC=CC=C1)C(=O)OC | C18H19NO2
product | 8-Lithio-2-methyl-4-phenyl-5,6,7,8-tetrahydroquinoline | [Li]C1CCCC=2C(=CC(=NC12)C)C1=CC=CC=C1 | InChI=1S/C16H16N.Li/c1-12-11-15(13-7-3-2-4-8-13)14-9-5-6-10-16(14)17-12;/h2-4,7-8,10-11H,5-6,9H2,1H3;
